US06458780B1
5-Methyl-7-methylthioimidazo[5,1-b]thiazole (3.34 g) was dissolved in 150 ml of THF. A 1.59 N n-butyllithium/n-hexane solution (22.8 ml) was added dropwise to the solution in an argon atmosphere at −73° C. The mixture was stirred at the same temperature for 40 min. Tri-n-butylstannyl chloride (6.39 ml) was added thereto, followed by stirring at the same temperature for one hr. An ammonium chloride solution was added to the reaction solution. The mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1 to 1:1). Of two main components, the fraction, which had been eluted earlier, was collected to give 598 mg of 5-methyl-7-methylthio-3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole.

reactant | 5-Methyl-7-methylthioimidazo[5,1-b]thiazole | 3.34 g | CC1=NC(=C2SC=CN21)SC | C7H8N2S2
reactant | n-butyllithium n-hexane | 1.59 N, 22.8 ml | C(CCC)[Li].CCCCCC
reactant | Tri-n-butylstannyl chloride | 6.39 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-methyl-7-methylthio-3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 598 mg | CC1=NC(=C2SC=C(N21)[Sn](CCCC)(CCCC)CCCC)SC | InChI=1S/C7H7N2S2.3C4H9.Sn/c1-5-8-6(10-2)7-9(5)3-4-11-7;3*1-3-4-2;/h4H,1-2H3;3*1,3-4H2,2H3;
